US08334301B2
5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde
4-(2-Fluoropyridin-3-yl)thiophene-2-carbaldehyde (3.35 g) was dissolved in acetic acid (20 mL) and N,N-dimethylformamide (20 mL), and bromine (7.77 g) was added at room temperature. The reaction mixture was stirred overnight and concentrated under reduced pressure. The residue was weakly basified with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium thiosulfate solution, saturated aqueous sodium hydrogen carbonate solution and saturated brine in this order, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane:ethyl acetate=6:1→3:1), and the obtained solid was washed with diisopropyl ether to give the title compound as a pale-yellow powder (yield 1.79 g, 39%).

reactant | 4-(2-Fluoropyridin-3-yl)thiophene-2-carbaldehyde | 3.35 g | FC1=NC=CC=C1C=1C=C(SC1)C=O | C10H6FNOS
reactant | bromine | 7.77 g | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-bromo-4-(2-fluoropyridin-3-yl)thiophene-2-carbaldehyde | yield 1.79 g, 39% | BrC1=C(C=C(S1)C=O)C=1C(=NC=CC1)F | C10H5BrFNOS
